US07196104B2
Preparation AY: 2-(4-Boc-aminophenyl)-thiazole-4-carboxylic acid
In a manner similar to that described for the preparation of 2-(4-aminosulfonylphenyl)thiazole-4-carboxylic acid, 4-[(1,1-dimethylethoxy)carbonyl]-aminobenzonitrile was treated with H2S, ethyl bromopyruvate, and LIOH successively to give the title compound. MS m/z: 321 (M+H).

reactant | 2-(4-aminosulfonylphenyl)thiazole-4-carboxylic acid | NS(=O)(=O)C1=CC=C(C=C1)C=1SC=C(N1)C(=O)O | C10H8N2O4S2
reactant | 4-[(1,1-dimethylethoxy)carbonyl]-aminobenzonitrile | CC(C)(OC(=O)C1=CC(=C(C#N)C=C1)N)C | C12H14N2O2
reactant | H2S | S | H2S
reactant | ethyl bromopyruvate | BrCC(C(=O)OCC)=O | C5H7BrO3
product | 2-(4-Boc-aminophenyl)-thiazole-4-carboxylic acid | C(=O)(OC(C)(C)C)C1=CC(=C(C=C1)C=1SC=C(N1)C(=O)O)N | C15H16N2O4S
